US07396844B1
Synthesis of N-t-butoxycarbonyl-3-hydroxybenzamidine
1 g (5.8 mmol) of 3-hydroxybenzamidine hydrochloride, 1.27 g (5.8 mmol) of di-t-butyl dicarbonate, 24 mg (0.2 mmol) of 4-(dimethylamino)pyridine and 1.30 g (12.8 mmol) of triethylamine were dissolved in 20 ml of dimethylformamide, and the solution was stirred at room temperature overnight. After the treatment with ethyl acetate as the extractant in an ordinary manner, the title compound was obtained.

reactant | 3-hydroxybenzamidine hydrochloride | 5.8 mmol, 1 g | Cl.OC=1C=C(C(=N)N)C=CC1
reactant | di-t-butyl dicarbonate | 5.8 mmol, 1.27 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 12.8 mmol, 1.30 g | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 4-(dimethylamino)pyridine | 0.2 mmol, 24 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-t-butoxycarbonyl-3-hydroxybenzamidine | C(C)(C)(C)OC(=O)NC(C1=CC(=CC=C1)O)=N | C12H16N2O3
